US05883102
1-(4-(2-Thiazolyl)benzoyl)-4-piperidone ethylene ketal
A solution of 1-(4-bromobenzoyl)-4-piperidone ethylene ketal (652 mg, 2 mmol) and trimethyl-2-thiazolylstannane (595 mg, 2.4 mmol) in degassed toluene was heated at reflux with tetrakis(triphenylphosphine)palladium(0) (200 mg, 0.17 mmol) for 16 h. The mixture was cooled, filtered through celite and evaporated. The residue was purified by flash chromatography on silica eluting with 50% ethyl acetate/hexane to yield a white solid (480 mg), MS (+CI) 331 [(M+H)+].

reactant | 1-(4-bromobenzoyl)-4-piperidone ethylene ketal | 2 mmol, 652 mg | C1COC2(CCN(CC2)C(C2=CC=C(C=C2)Br)=O)O1 | C14H16BrNO3
reactant | trimethyl-2-thiazolylstannane | 2.4 mmol, 595 mg | C[Sn](C=1SC=CN1)(C)C
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.17 mmol, 200 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-(4-(2-Thiazolyl)benzoyl)-4-piperidone ethylene ketal | 480 mg | C1COC2(CCN(CC2)C(C2=CC=C(C=C2)C=2SC=CN2)=O)O1 | C17H18N2O3S
